US07544812B2
2-Ethoxy-2-methyl-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid:
A solution of 2-Ethoxy-2-methyl-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid ethyl ester (0.19 g, 0.347 mmol) and 5N NaOH (0.5 mL) in ethanol (5 mL) is refluxed for 1 h, cooled to ambient temperature, and concentrated. The residue is diluted with CH2Cl2, washed, dried, and concentrated in vacuo to provide the title compound. 1H NMR (400 MHz, CDCl3): δ 7.63 (d, 2H, J=8.4 Hz), 7.44 (d, 2H, J=8.4 Hz), 7.08 (d, 2H, J=8.7 Hz), 6.76 (d, 2H, J=8.7 Hz), 4.37, 4.35 (ABq, 2H, J=16.4 Hz), 3.99-3.89 (m, 2H), 3.63-3.53 (m, 1H), 3.43-3.23 (m, 2H), 2.98 (t, 1H, J=8.8 Hz), 2.86, 2.84 (ABq, 2H, J=15.4 Hz), 2.71 (s, 3H), 2.51-2.49 (m, 3H), 2.23-2.13 (m, 1H), 1.86-1.74 (m, 1H), 1.15 (s, 3H), 1.08 (t, 3H, J=6.9 Hz). MS [ES+] m/z exact mass calcd for C26H32N2O5F3 509.2263, found 509.2288.

reactant | 2-Ethoxy-2-methyl-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid ethyl ester | 0.347 mmol, 0.19 g | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C)(C)OCC)=O | C28H35F3N2O5
reactant | NaOH | 5N, 0.5 mL | [OH-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-Ethoxy-2-methyl-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid | C(C)OC(C(=O)O)(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C)C | C26H31F3N2O5
